US07115645B2
5-[[5-[[(4-Chlorophenyl)sulfonyl]amino]-1,2-diphenyl-1H-benzimidazol-6-yl]oxy]pentanoic acid methyl ester
5-[(5-Amino-1,2-diphenyl-1H-benzimidazol-6-yl)oxy]pentanoic acid methyl ester was reacted with 4-chlorobenzenesulfonic acid chloride according to general operating instructions 13.

reactant | 5-[(5-Amino-1,2-diphenyl-1H-benzimidazol-6-yl)oxy]pentanoic acid methyl ester | COC(CCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)N)=O | C25H25N3O3
reactant | 4-chlorobenzenesulfonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 5-[[5-[[(4-Chlorophenyl)sulfonyl]amino]-1,2-diphenyl-1H-benzimidazol-6-yl]oxy]pentanoic acid methyl ester | COC(CCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C31H28ClN3O5S
